US05554607
3-(3-Chloro-4-methylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 1 using 18.3 g of 3-chloro-4-methylphenyl-isothiocyanate, 15.3 g of sarcosine ethyl ester hydrochloride, 25 g of triethyl amine, and 300 mL of chloroform. Crystallization from ethyl acetate afforded the title compound (14.5 g) as an off-white solid, m.p. 178°-180° C. Anal. Calcd. for C11H11Cl N2O S: C, 51.87; H, 4.35; N,11.00. Found: C, 1.89; H, 4.20; N, 10.95. Mass spectrum (+FAB, [M+H]+) m/z 255/257.

reactant | 3-chloro-4-methylphenyl-isothiocyanate | 18.3 g | ClC=1C=C(C=CC1C)N=C=S | C8H6ClNS
reactant | sarcosine ethyl ester hydrochloride | 15.3 g | Cl.C(C)OC(CNC)=O
reactant | triethyl amine | 25 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-Chloro-4-methylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one | 14.5 g | ClC=1C=C(C=CC1C)N1C(N(CC1=O)C)=S | C11H11ClN2OS
